US07605171B2
Step A: Ethyl 6-hydroxy-5-iodonicotinate
A suspension of 4.6 g (17.36 mmol) of 5-iodo-6-hydroxynicotinic acid and 7.0 mL of concentrated sulfuric acid in 40 mL of ethanol was refluxed for 16 h. The reaction mixture was cooled to rt and filtered to afford 3.0 g of a white solid as the title compound: 1H NMR (500 MHz, DMSO) δ 1.25 (t, J=6.9, 3H), 4.21 (q, J=6.6, 2H), 8.05 (d, J=1.4, 1H), 8.33 (d, J=1.3, 1H).

reactant | 5-iodo-6-hydroxynicotinic acid | 17.36 mmol, 4.6 g | IC=1C(=NC=C(C(=O)O)C1)O | C6H4INO3
reactant | sulfuric acid | 7.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl 6-hydroxy-5-iodonicotinate | 3.0 g | OC1=NC=C(C(=O)OCC)C=C1I | C8H8INO3
